US09422240B2
To a solution of 2,3-dimethyl-2-butene (5.76 g) in toluene (46.0 mL), chlorosulfonyl isocyanate (5.91 mL) was added at 0° C. After being stirred at that temperature for 10 minutes, the mixture was brought to room temperature. After being stirred for 45 minutes, the mixture was diluted with added toluene (69.0 mL). To a mixture of a solution of 25% sodium hydroxide in water (49.1 mL) and benzyltriethylammonium chloride (99.0 mg), the reaction mixture was added over a period of one hour. The resulting mixture was added dropwise to a solution of 25% sodium hydroxide in water and the mixture was stirred at 50° C. for an hour. After being cooled to room temperature, the mixture was extracted with toluene twice. The combined organic layers were washed with saturated brine and dried over added anhydrous magnesium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was recrystallized with toluene to give 3,3,4,4-tetramethylazetidine-2-one as a colorless solid (5.52 g).

reactant | 2,3-dimethyl-2-butene | 5.76 g | CC(C)=C(C)C | C6H12
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chlorosulfonyl isocyanate | 5.91 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 46.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 69.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 49.1 mL | O | H2O
catalyst | benzyltriethylammonium chloride | 99.0 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 3,3,4,4-tetramethylazetidine-2-one | 5.52 g | CC1(C(NC1(C)C)=O)C | C7H13NO
